US07981903B2
The 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (4.0 g, 12.7 mmol) was dissolved in 50 mL of dichloromethane, then K2CO3 (4.4 g, 31.7 mmol) and N-methyl-1-propanamine (1.9 g, 25.4 mmol) in 10 mL dichloromethane were added, the reaction was stirred at RT for 3 hours. After filtration, the organic layers were washed with water (2×100 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the resulting residue was dissolved in 10 mL of EA , 25 mL of MeOH and 15 mL of THF, then 0.8 g 10% Pd/C was added and the reaction was stirred at RT overnight under H2 pressure (65 psi). The catalyst was removed via filtration and the solvent was removed under reduced pressure to afford 5-(methyloxy)-1-{[methyl(propyl)amino]acetyl}-2,3-dihydro-1H-indol-6-amine as a yellow solid, 3.0 g (96%). 1HNMR (400 MHz, DMSO-d6) δ ppm: 0.81 (t, J=7.14 Hz, 3H), 1.40 (m, 2H), 2.21 (s, 3H), 2.35(m, 2H), 2.94 (t, J=8.24 Hz, 2 H), 3.17(s, 2H), 3.70 (s, 3H), 4.07 (t, J=8.33 Hz, 2 H), 4.60 (s, 2H), 6.67 (s, 1 H), 7.52 (s, 1 H).

reactant | 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 12.7 mmol, 4.0 g | BrCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H11BrN2O4
reactant | K2CO3 | 31.7 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-1-propanamine | 25.4 mmol, 1.9 g | CNCCC | C4H11N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(methyloxy)-1-{[methyl(propyl)amino]acetyl}-2,3-dihydro-1H-indol-6-amine | COC=1C=C2CCN(C2=CC1N)C(CN(CCC)C)=O | C15H23N3O2
